US08106055B2
2,4,6-Trichloro-N-(3-hydroxypropoxymethyl)-N-methylbenzenesulfonamide (Intermediate G)
10% palladium on charcoal (350 mg) was added to a soln. of N-(3-benzyloxypropoxymethyl)-2,4,6-trichloro-N-methylbenzenesulfonamide (2.60 g, 5.7 mmol) in THF (100 ml) under argon and hydrogenation was carried out at RT under 3 bar. The reaction soln. was then filtered through Celite, the residue on the filter was washed with THF (50 ml) and the filtrate was concentrated i. vac. The crude product (1.63 g) was purified by means of flash chromatography with cyclohexane/EtOAc (1:1).

reactant | N-(3-benzyloxypropoxymethyl)-2,4,6-trichloro-N-methylbenzenesulfonamide | 5.7 mmol, 2.60 g | C(C1=CC=CC=C1)OCCCOCN(S(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl)C | C18H20Cl3NO4S
catalyst | palladium on charcoal | 350 mg | [Pd] | Pd
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,4,6-Trichloro-N-(3-hydroxypropoxymethyl)-N-methylbenzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)N(C)COCCCO | C11H14Cl3NO4S
